US05240925
b. Preparation of 1-[2-Cyano-2-(2,4-dichlorophenyl)-5-(1-piperidinyl)pentyl]-1,2,4-triazole
This compound (5.0 g.) was prepared using the procedure described in Example 9b except using 5.0 g. (0.016 mole) of 2-(2,4-dichlorophenyl)-5-(1-piperidinyl)valeronitrile, 2.7 g. (0.0176 mole) of 1-(chloromethyl)-1,2,4-triazole hydrochloride, 3.2 g. (0.040 mole) of aqueous 50% sodium hydroxide, and 50 ml. of DMSO and was isolated as an oil.

reactant | 2-(2,4-dichlorophenyl)-5-(1-piperidinyl)valeronitrile | 0.016 mole | ClC1=C(C=CC(=C1)Cl)C(C#N)CCCN1CCCCC1 | C16H20Cl2N2
reactant | 1-(chloromethyl)-1,2,4-triazole hydrochloride | 0.0176 mole | Cl.ClCN1N=CN=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[2-Cyano-2-(2,4-dichlorophenyl)-5-(1-piperidinyl)pentyl]-1,2,4-triazole | C(#N)C(CN1N=CN=C1)(CCCN1CCCCC1)C1=C(C=C(C=C1)Cl)Cl | C19H23Cl2N5
